US07678800B2
Nonafluoro-butane-1-sulfonyl fluoride (2.71 mL; 15.1 mmol) was added to a mixture of ethyl-diisopropyl-amine (2.87 mL; 16.5 mmol), 4-(N,N-dimethylamino)-pyridine (25 mg) and 4-(2-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (3.81 g; 13.7 mmol) in 50 ml 1,2-dichloro-ethane at 0° C. under argon. The reaction mixture was allowed to warm to room temperature and stirred 16 hours. The reaction mixture was extracted with water (100 mL) and brine (100 mL). The combined aqueous phases were extracted with ethyl acetate (100 mL). The combined organic phases were washed with brine (100 mL), dried with MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (silica gel; ethyl acetate/heptane) to give 4.34 g 4-[2-(nonafluorobutane-1-sulfonyloxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester (7.76 mmol; 57%).

reactant | Nonafluoro-butane-1-sulfonyl fluoride | 15.1 mmol, 2.71 mL | FC(C(C(S(=O)(=O)F)(F)F)(F)F)(C(F)(F)F)F | C4F10O2S
reactant | ethyl-diisopropyl-amine | 16.5 mmol, 2.87 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-(2-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 13.7 mmol, 3.81 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)O | C16H23NO3
catalyst | 4-(N,N-dimethylamino)-pyridine | 25 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | 1,2-dichloro-ethane | 50 ml | ClCCCl | C2H4Cl2
product | 4-[2-(nonafluorobutane-1-sulfonyloxy)-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | 7.76 mmol, 4.34 g, 57% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C20H22F9NO5S
